US07709469B2
1-[2-chloro-3-(trifluoromethyl)phenyl]-5-(2,3-dihydro-1H-inden-1-yl)-1H-1,2,4-triazole
The title compound was prepared using the procedure as described in Example 80 substituting 2-chloro-3-trifluoromethylphenylhydrazine hydrochloride for phenylhydrazine hydrochloride and substituting N-formyl-2,3-dihydro-1H-indene-1-carboxamide (prepared using the procedure as described in Example 76A, substituting from indan-1-carboxamide [Seidl Tetrahedron 1964, 20, 633] for 2-o-tolylacetamide) for N-formylphenylacetamide. The residue was purified by flash chromatography (40% ethyl acetate/hexanes) to provide the title compound. MS (ESI) m/e: 364 (M+H)+; 1H NMR (DMSO-d6) δ 2.05-2.45 (m, 2H), 2.8-3.05 (m, 2H), 4.29-4.35 (t, 1H), 6.95-7.05 (bs, 1H), 7.03-7.1 (t, 1H), 7.1-7.21 (t, 1H), 7.2-7.3 (d, 1H), 7.78-7.82 (t, 2H), 8.0-8.01 (bs, 0.5H), 8.18 (s, 1H), 8.22 (bs, 0.5H); Anal. calcd. for C, 59.43; H, 3.60; N, 11.55. Found C, 59.20; H, 3.34; N, 11.48

reactant | 2-chloro-3-trifluoromethylphenylhydrazine hydrochloride | Cl.ClC1=C(C=CC=C1C(F)(F)F)NN
reactant | phenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)NN
reactant | indan-1-carboxamide | C1(CCC2=CC=CC=C12)C(=O)N | C10H11NO
reactant | 2-o-tolylacetamide | C1(=C(C=CC=C1)CC(=O)N)C | C9H11NO
reactant | N-formylphenylacetamide | C(=O)NC(CC1=CC=CC=C1)=O | C9H9NO2
product | 1-[2-chloro-3-(trifluoromethyl)phenyl]-5-(2,3-dihydro-1H-inden-1-yl)-1H-1,2,4-triazole | ClC1=C(C=CC=C1C(F)(F)F)N1N=CN=C1C1CCC2=CC=CC=C12 | C18H13ClF3N3
